US07745490B2
3,4-Dihydroxy-1-nitrobenzene was benzylated by refluxing with benzyl bromide with potassium carbonate as a base in acetone which on reduction with sodium dithionite gave 3,4-dibenzyloxy aniline. This was coupled to 2-oxo-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid using N,N-1,3-diisopropylcarbodiimide in the presence of 1-hydroxybenzotriazole to provide the amide. The amide was then debenzylated by hydrogenation in presence of palladium on carbon.

reactant | 3,4-Dihydroxy-1-nitrobenzene | OC=1C=C(C=CC1O)[N+](=O)[O-] | C6H5NO4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 3,4-dibenzyloxy aniline | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1OCC1=CC=CC=C1 | C20H19NO2
